US08710043B2
(S,E)-2-Methyl-N-((3-(trifluoromethyl)pyridin-2-yl)methylene)propane-2-sulfinamide (0.493 g, 1.772 mmol) was dissolved in dry THF (10 mL) and cooled in an ice bath. 3,4-Dichlorophenylmagnesium bromide (Aldrich, 0.5 M solution in THF, 4.0 mL, 2.0 mmol) was added, and the reaction was stirred for 5 minutes. Saturated aqueous NH4Cl (10 mL), H2O (100 mL) and EtOAc (100 mL) were added and the phases were mixed and separated. The organic layer was dried with MgSO4 and evaporated to dryness under reduced pressure. Purification using silica chromatography (hexane to EtOAc gradient) gave (S)—N—((S)-(3,4-dichloro-phenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide.

reactant | (S,E)-2-Methyl-N-((3-(trifluoromethyl)pyridin-2-yl)methylene)propane-2-sulfinamide | 1.772 mmol, 0.493 g | CC(C)(C)[S@](=O)/N=C/C1=NC=CC=C1C(F)(F)F | C11H13F3N2OS
reactant | 3,4-Dichlorophenylmagnesium bromide | 2.0 mmol, 0.5 M, 4.0 mL | ClC=1C=C(C=CC1Cl)[Mg]Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | H2O | 100 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)—N—((S)-(3,4-dichloro-phenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | ClC=1C=C(C=CC1Cl)[C@H](N[S@@](=O)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C17H17Cl2F3N2OS
